US07517532B2
Step 2: 4-Acetyl-1-(4-fluorobenzyl)-3,4-dihydroquinoxalin-2(1H)-one
To a cold (0° C.) solution of 4-acetyl-3,4-dihydroquinoxalin-2(1H)-one (0.13 g, 0.68 mmol) in DMF (3.5 mL) under an atmosphere of nitrogen, a solution of lithium bis(trimethylsilyl)amide in THF (0.75 mL, 0.75 mmol) was added and stirred at the temperature for 30 min. The resultant solution was treated with 4-fluorobenzyl bromide (0.089 mL, 0.72 mmol), and stirred at room temperature for 3 hours. The product mixture was concentrated under vacuum, and the residue partitioned between aqueous HCl and ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 50% ethyl acetate in hexane. Collection and concentration of appropriate fractions provided the title compound.

reactant | 4-acetyl-3,4-dihydroquinoxalin-2(1H)-one | 0.68 mmol, 0.13 g | C(C)(=O)N1CC(NC2=CC=CC=C12)=O | C10H10N2O2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 0.75 mmol, 0.75 mL | C1CCOC1 | C4H8O
reactant | 4-fluorobenzyl bromide | 0.72 mmol, 0.089 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | 4-Acetyl-1-(4-fluorobenzyl)-3,4-dihydroquinoxalin-2(1H)-one | C(C)(=O)N1CC(N(C2=CC=CC=C12)CC1=CC=C(C=C1)F)=O | C17H15FN2O2
